US07465731B2
To a mixture of ethyl (2E)-3-(6-{[(3R)-1-(4-aminophenyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate (178 mg) and 50% phosphinic acid (5 mL) was added sodium nitrite (62.7 mg) in H2O at 4° C. The reaction mixture was stirred for 2 hours at 4° C. The resulting mixture was neutrized with saturated NaHCO3 and extracted with chloroform. The organic layer was dried over MgSO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give ethyl (2E)-3-(6-{[(3R)-1-phenyl-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate (49.0 mg).

reactant | ethyl (2E)-3-(6-{[(3R)-1-(4-aminophenyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate | 178 mg | NC1=CC=C(C=C1)N1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)OCC | C20H24N4O2
reactant | phosphinic acid | 5 mL | [PH2](O)=O | H3O2P
reactant | sodium nitrite | 62.7 mg | N(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2O | O | H2O
product | ethyl (2E)-3-(6-{[(3R)-1-phenyl-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate | 49.0 mg | C1(=CC=CC=C1)N1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)OCC | C20H23N3O2
